US03940395
Repeating the procedure of Example XX 7.2 g. of 4,6-dichloro-2-(p-tolyl)-pyrimidine and 6.0 g. of N-methylpiperazine are reacted in 40 ml. of absolute ethanol. The crude product (8.4 g.) is separated and twice recrystallized from n-heptane to afford 4-chloro-6-(4-methyl-1-piperazinyl)-2-(4-tolyl)-pyrimidine, m.p. 93°-95°C.

reactant | 4,6-dichloro-2-(p-tolyl)-pyrimidine | ClC1=NC(=NC(=C1)Cl)C1=CC=C(C=C1)C | C11H8Cl2N2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
solvent | ethanol | C(C)O | C2H6O
product | 4-chloro-6-(4-methyl-1-piperazinyl)-2-(4-tolyl)-pyrimidine | ClC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC=C(C=C1)C | C16H19ClN4
